US07612114B2
Synthesized from 5-methoxybenzo[b]thiophene according to an analogous synthetic method to Preparation Example 78, (5-methoxybenzo[b]thiophen-2-yl)boronic acid (6.2 g) and 4-bromo-3-nitroanisole (5.5 g) were used according to an analogous synthetic method to Preparation Example 79 to provide 5-methoxy-2-(4-methoxy-2-nitrophenyl)benzo[b]thiophene (2.7 g). The total amount of this compound was used according to an analogous synthetic method to Example 22 to provide the title compound (2.3 g).

reactant | 5-methoxybenzo[b]thiophene | COC1=CC2=C(SC=C2)C=C1 | C9H8OS
reactant | (5-methoxybenzo[b]thiophen-2-yl)boronic acid | 6.2 g | COC1=CC2=C(SC(=C2)B(O)O)C=C1 | C9H9BO3S
reactant | 4-bromo-3-nitroanisole | 5.5 g | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
product | 5-methoxy-2-(4-methoxy-2-nitrophenyl)benzo[b]thiophene | 2.7 g | COC1=CC2=C(SC(=C2)C2=C(C=C(C=C2)OC)[N+](=O)[O-])C=C1 | C16H13NO4S
